US04552866
N-[N-[N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester, dihydrochloride (slower isomer)
A solution of 250 mg of N-[N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester (slower isomer) (see example 6C) in 3 ml of ethyl acetate and 1.5 ml of dichloromethane was cooled in an ice bath under nitrogen, and then treated with anhydrous hydrogen chloride gas to saturation. Once the reaction was saturated, the ice bath was removed, the reaction was stoppered, and stirred at ambient temperature. After one hour, the reaction was concentrated to dryness in vacuo, resuspended in 5 ml of ethyl acetate, cooled in an ice bath under nitrogen, resaturated with anhydrous hydrogen chloride and stoppered. After 30 minutes, the reaction was concentrated to dryness in vacuo, then recrystallized from methanol/ether at room temperature, and refrigerated overnight to afford 200 mg of the title compound as a hydrate with 0.4 mole of water, melting point 242°-252° C., dec.

reactant | N-[N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester | 250 mg | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)O)CC(C)C | C33H56N4O7
reactant | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
reactant | hydrogen chloride | Cl | ClH
reactant | water | 0.4 mole | O | H2O
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | N-[N-[N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-leucyl]-L-valyl]-L-phenylalanine, methyl ester, dihydrochloride | 200 mg | Cl.Cl.N[C@H](C(CN[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)O)CC(C)C | InChI=1S/C28H48N4O5.2ClH/c1-17(2)13-21(29)24(33)16-30-22(14-18(3)4)26(34)32-25(19(5)6)27(35)31-23(28(36)37-7)15-20-11-9-8-10-12-20;;/h8-12,17-19,21-25,30,33H,13-16,29H2,1-7H3,(H,31,35)(H,32,34);2*1H/t21-,22-,23-,24?,25-;;/m0../s1
